US05574042
To a solution of ethyl 4-aminocinnamate (150 mg) in methylene chloride were added methyl isocyanate (0.06 ml) under nitrogen atmosphere at ambient temperature, and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was poured into the mixture of ethyl acetate and water. The organic layer was washed with water twice, dried over magnesium sulfate, and concentrated in vacuo. The residue was crystallized from diisopropyl ether to give ethyl 4-(3-methylureido)cinnamate (136 mg).

reactant | ethyl 4-aminocinnamate | 150 mg | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | methyl isocyanate | 0.06 ml | CN=C=O | C2H3NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 4-(3-methylureido)cinnamate | 136 mg | CNC(NC1=CC=C(C=CC(=O)OCC)C=C1)=O | C13H16N2O3
